US07977027B2
Synthesis of N-2-((2-methoxyethoxy)methoxy)ethylmorpholine N-oxide (Quencher 3)
16.1 g of N-2-((2-methoxyethoxy)methoxy)ethylmorpholine was dissolved in 85 g of dichloromethane, which was ice cooled. To the solution, 24.9 g of 65% pure m-chloroperbenzoic acid in 250 g of dichloromethane was added dropwise at such a rate that the mixture might not exceed 5° C. The mixture was allowed to mature for one hour at room temperature. The reaction solution was concentrated below 30° C., and the residue was purified by column chromatography (basic alumina, elute: dichloromethane/methanol). The eluate was concentrated whereupon the desired compound solidified. The amount was 15.5 g.

reactant | N-2-((2-methoxyethoxy)methoxy)ethylmorpholine | 16.1 g | COCCOCOCCN1CCOCC1 | C10H21NO4
reactant | m-chloroperbenzoic acid | 24.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 85 g | ClCCl | CH2Cl2
solvent | dichloromethane | 250 g | ClCCl | CH2Cl2
product | N-2-((2-methoxyethoxy)methoxy)ethylmorpholine N-oxide | COCCOCOCC[N+]1(CCOCC1)[O-] | C10H21NO5
